US09034866B2
In a solution of 10-(((1R,5S)-3-hydroxy-8-azabicyclo[3.2.1]octan-3-yl)ethynyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide (0.15 g, 0.4 mmol) in methanol (20 ml) was added (HCHO)n (144 mg, 4.8 mmol) and NaBH(OAc)3 (260 mg, 1.2 mmol). The solution was stirred for 1 h at room temperature. The reaction mixture was quenched with water and purified by Prep HPLC to afford 9-(3-Hydroxy-8-methyl-8-aza-bicyclo[3.2.1]oct-3-ylethynyl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide (13.5 mg, 8.5%). 1H NMR (Methanol-d4, 400 MHz): δ 8.30 (m, 1H), 8.10 (s, 1H), 7.56 (d, J=8.4 Hz, 1H), 7.19 (d, J=8.4 Hz, 1H), 4.67 (s, 4H), 3.94 (s, 2H), 2.81 (s, 3H), 2.65-2.20 (m, 8H). LCMS [M+H]+=393.0.

reactant | 10-(((1R,5S)-3-hydroxy-8-azabicyclo[3.2.1]octan-3-yl)ethynyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | 0.4 mmol, 0.15 g | OC1(C[C@H]2CC[C@@H](C1)N2)C#CC=2C=CC1=C(C=3N(CCO1)C=C(N3)C(=O)N)C2 | C21H22N4O3
reactant | NaBH(OAc)3 | 1.2 mmol, 260 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 9-(3-Hydroxy-8-methyl-8-aza-bicyclo[3.2.1]oct-3-ylethynyl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide | 13.5 mg, 8.5% | OC1(CC2CCC(C1)N2C)C#CC=2C=CC1=C(C3=NC(=CN3CCO1)C(=O)N)C2 | C22H24N4O3
